US06239159B1
Dimethyl pyrrole-3,4-dicarboxylate.
TOSMIC (1.5 g, 7.7 mmol) was added to a solution of dimethyl fumarate (1 g, 6.9 mmol) and sodium hydride (60%, 0.59, 12.5 mmol) in dry DMF (25 ml) at 0° C., and the solution stirred at 0° C. for 15 minutes. The reaction was poured onto ice-water and the product filtered and recrystallised from aqueous ethanol. 0.61 g, 48%. 1H-n.m.r. (DMSO-d6) δ (ppm) 3.68 (6H, s, 2×CH3), 7.39 (2H, s, 2×CH), 11.81 (1H, s, NH).

reactant | TOSMIC | 7.7 mmol, 1.5 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | dimethyl fumarate | 6.9 mmol, 1 g | C(\C=C\C(=O)OC)(=O)OC | C6H8O4
reactant | sodium hydride | 12.5 mmol | [H-].[Na+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | Dimethyl pyrrole-3,4-dicarboxylate | N1C=C(C(=C1)C(=O)OC)C(=O)OC | C8H9NO4
